US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (1-hydroxymethyl-cyclohexyl)-amide
The title compound was synthesized in analogy to Example 69, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 50 mg, 0.214 mmol) and (1-amino-cyclohexyl)-methanol hydrochloride (CAN 5460-68-4, 22.8 mg, 0.17 mmol) as starting materials and isolated (46 mg, 62.32%) as white solid; LC-MS (UV peak area, ESI) 96.49%, 346.0 (M+H)+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.214 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | (1-amino-cyclohexyl)-methanol hydrochloride | 0.17 mmol, 22.8 mg | Cl.NC1(CCCCC1)CO
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (1-hydroxymethyl-cyclohexyl)-amide | OCC1(CCCCC1)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C19H27N3O3
